US04404203
A mixture of 3-benzoylpropionic acid (89 g), 80% hydrazine hydrate (25.5 ml) in ethanol (1000 ml) is refluxed for 6 hrs, cooled and filtered to give 75.6 g of 6-phenyl-4,5-dihydro-3(2H)-pyridazinone. Bromine (70 g) is added dropwise to a solution of the above pyridazinone in acetic acid (200 ml) at 80° C. After the addition is over, the mixture is heated to 100° C. for 15 minutes, cooled, filtered and washed with isopropyl ether. The solid is slurried in water, adjusted to pH 10 and filtered to give 60 g of the product 6-phenyl-3(2H)-pyridazinone.

reactant | 3-benzoylpropionic acid | 89 g | C(C1=CC=CC=C1)(=O)CCC(=O)O | C10H10O3
reactant | hydrazine hydrate | 25.5 ml | O.NN
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | 6-phenyl-4,5-dihydro-3(2H)-pyridazinone | 75.6 g | C1(=CC=CC=C1)C=1CCC(NN1)=O | C10H10N2O
